US08563715B2
The synthesis method shall be explained concretely, and in order, below. A mixed solution of 2-[2-(4-methoxyphenyl)vinyl]-4,6-dimorpholino-5-nitropyrimidine (1.35 g, 3.16 mmol), zinc dust (6.19 g, 94.8 mmol), and calcium chloride (224 mg, 2.02 mmol) in acetonitrile (80 ml) and water (20 ml) was refluxed under heating for 1 hour. The undissolved matter was separated out by celite filtering, the filtrate was distilled away under reduced pressure, water was added to the residue, the precipitated crystals were taken out by filtering, and 5-amino-2-[2-(4-methoxyphenyl)vinyl]-4,6-dimorpholinopyrimidine (940 mg, yield 75%) was obtained. The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 131 are shown below.

reactant | 2-[2-(4-methoxyphenyl)vinyl]-4,6-dimorpholino-5-nitropyrimidine | 3.16 mmol, 1.35 g | COC1=CC=C(C=C1)C=CC1=NC(=C(C(=N1)N1CCOCC1)[N+](=O)[O-])N1CCOCC1 | C21H25N5O5
reactant | calcium chloride | 2.02 mmol, 224 mg | [Cl-].[Ca+2].[Cl-]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
catalyst | zinc | 94.8 mmol, 6.19 g | [Zn] | Zn
product | 5-amino-2-[2-(4-methoxyphenyl)vinyl]-4,6-dimorpholinopyrimidine | 940 mg, yield 75% | NC=1C(=NC(=NC1N1CCOCC1)C=CC1=CC=C(C=C1)OC)N1CCOCC1 | C21H27N5O3
